US09355787B2
Reaction (i) Illustrated in FIG. 13: Formation of 1H, 3H-Thieno[3,4-c] furan-1,3-dione, Compound (2) Illustrated in FIG. 13.
In a 250 mL single-neck round-bottom flask equipped with reflux condenser, 3,4-thiophenedicarboxylic acid (Frontier Scientific, 4.000 g, 0.02325 mol) was heated to 120° C. with acetic anhydride for 6 hours. The reaction was then cooled to room temperature and the solvent was removed under reduced pressure to yield a dark brown solid. The crude product was recrystallized from toluene to yield pale yellow needles in quantitative yield.

reactant | 3,4-thiophenedicarboxylic acid | 0.02325 mol, 4.000 g | S1C=C(C(=C1)C(=O)O)C(=O)O | C6H4O4S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3H-Thieno[3,4-c] furan-1,3-dione | quantitative yield | C1(OC(C=2C1=CSC2)=O)=O | C6H2O3S
